US09120749B2
{6-Bromo-4-[5-(2-(pyrrolidin-1-yl)ethyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (262 mg, 0.845 mmol) was reacted with 5-[2-(pyrrolidin-1-yl)ethyl]pyridin-3-amine (161 mg, 0.845 mmol) to afford the desired product (178 mg, 45%) as a white solid: ESI MS m/z 465 [C24H25BrN4O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.845 mmol, 262 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 5-[2-(pyrrolidin-1-yl)ethyl]pyridin-3-amine | 0.845 mmol, 161 mg | N1(CCCC1)CCC=1C=C(C=NC1)N | C11H17N3
product | {6-Bromo-4-[5-(2-(pyrrolidin-1-yl)ethyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 178 mg, 45% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC=C(C1)CCN1CCCC1 | C24H25BrN4O
